* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1256.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
R3 N004 OUT 1.5K
R4 N002 OUT 1.5K
V4 N001 0 2.5
R1 0 N003 50
C1 N003 CARRIER .1µ
V3 CARRIER 0 SINE(0 1 1Meg)
R2 N005 N001 220K
R5 0 N005 220K
C2 N005 MODULATION .1µ
V5 MODULATION 0 SINE(0 1 10K)
X§U2 0 N009 +V -V N008 LT1078
R6 OUT N009 220K
C3 N009 N008 .1µ
X§U1 N003 N002 N005 N006 0 N008 -V OUT +V 0 N007 N001 N004 0 LT1256
.tran 500u
* AM Modulator with DC Output Nulling Circuit
.lib LTC.lib
.backanno
.end
